US06407116B1
1-(4-Bromobutyl)-2,4-dioxo-3-(4-methoxybenzyl)-1,2,3,4-tetrahydroquinazoline
To a suspension of sodium hydride (60% in oil, 4.34 g) in N,N-dimethylformamide (100 ml), 2,4-dioxo-3-(4-methoxybenzyl)-1,2,3,4-tetrahydroquinazoline (25.5 g) obtained in Reference Example 26 was added, and the mixture was stirred at room temperature for 2 hours. This mixture was treated dropwise with a solution of 1,4-dibromobutane (21.6 ml) in N,N-dimethylformamide (50 ml), and stirred at room temperature for 19 hours. The reaction mixture was admixed with 1N hydrochloric acid, and extracted with ethyl acetate. The extract was washed with water, dried (MgSO4), and the solvent was distilled off under reduced pressure to give the title compound (30.8 g, 82%). Recrystallization from ethyl acetate-ethyl ether yielded a colorless crystal having a melting point of 124 to 125° C.

reactant | sodium hydride | 4.34 g | [H-].[Na+]
reactant | 2,4-dioxo-3-(4-methoxybenzyl)-1,2,3,4-tetrahydroquinazoline | 25.5 g | O=C1NC2=CC=CC=C2C(N1CC1=CC=C(C=C1)OC)=O | C16H14N2O3
reactant | 1,4-dibromobutane | 21.6 ml | BrCCCCBr | C4H8Br2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-(4-Bromobutyl)-2,4-dioxo-3-(4-methoxybenzyl)-1,2,3,4-tetrahydroquinazoline | 30.8 g, 82% | BrCCCCN1C(N(C(C2=CC=CC=C12)=O)CC1=CC=C(C=C1)OC)=O | C20H21BrN2O3
